US06916807B2
Preparation F: 1-[6-(4-Iodo-phenoxy)-pyridin-3-yl]-pyrrolidine-2,2-dicarboxylic Acid Diethyl Ester
2-[6-(4-Iodo-phenoxy)-pyridin-3-ylamino]-malonic acid diethyl ester (4.35 grams, 9.25 mmol) was added to a flame dried flask and dissolved in dimethylformamide (90 mL). 1,3 dibromopropane (938 μL, 9.25 mmol) and cesium carbonate (6 grams, 18.5 mmol) were added and the reaction mixture was stirred for approximately 24 hours to 48 hours. The solution was filtered through celite, and then concentrated under vacuum while heating to 55° C. to remove the dimethylformamide (azeotroping with toluene). The crude product obtained was chromatographed on silica gel (ISCO MPLC purification, 40 minutes, 0-50% ethyl acetate gradient, Biotage flash 40 m column) to provide 3.39 grams (72%) of the title compound. MS m/z: ESI+ 511.1 (M+H)+.

reactant | 2-[6-(4-Iodo-phenoxy)-pyridin-3-ylamino]-malonic acid diethyl ester | 9.25 mmol, 4.35 grams | C(C)OC(C(C(=O)OCC)NC=1C=NC(=CC1)OC1=CC=C(C=C1)I)=O | C18H19IN2O5
reactant | 1,3 dibromopropane | 9.25 mmol, 938 μL | BrCCCBr | C3H6Br2
reactant | cesium carbonate | 18.5 mmol, 6 grams | C([O-])([O-])=O.[Cs+].[Cs+]
product | 1-[6-(4-Iodo-phenoxy)-pyridin-3-yl]-pyrrolidine-2,2-dicarboxylic Acid Diethyl Ester | 3.39 grams, 72% | C(C)OC(=O)C1(N(CCC1)C=1C=NC(=CC1)OC1=CC=C(C=C1)I)C(=O)OCC | C21H23IN2O5
